US07189741B2
C. Preparation of 5-{4-[1-(5-chloro-thiophen-2-ylmethyl)-5-methoxy-1H-indol-3-yl]-piperidin-1-ylmethyl}-2-methoxy-benzoic acid
This compound was prepared following the procedure described in example 13 (part D) starting with 0.05 g (0.13 mmol) 1-(5-chloro-thiophen-2-ylmethyl)-5-methoxy-3-piperidin-4-yl-1H-indole and 0.05 g (0.18 mmol) of 5-bromomethyl-2-methoxy-benzoic acid ethyl ester. The crude mixture was purified by HPLC-MS using a C-18 column, and 0.002 g (99% of purity) of the expected acid were isolated.

reactant | 1-(5-chloro-thiophen-2-ylmethyl)-5-methoxy-3-piperidin-4-yl-1H-indole | 0.13 mmol, 0.05 g | ClC1=CC=C(S1)CN1C=C(C2=CC(=CC=C12)OC)C1CCNCC1 | C19H21ClN2OS
reactant | 5-bromomethyl-2-methoxy-benzoic acid ethyl ester | 0.18 mmol, 0.05 g | C(C)OC(C1=C(C=CC(=C1)CBr)OC)=O | C11H13BrO3
product | 5-{4-[1-(5-chloro-thiophen-2-ylmethyl)-5-methoxy-1H-indol-3-yl]-piperidin-1-ylmethyl}-2-methoxy-benzoic acid | ClC1=CC=C(S1)CN1C=C(C2=CC(=CC=C12)OC)C1CCN(CC1)CC=1C=CC(=C(C(=O)O)C1)OC | C28H29ClN2O4S
